US09107916B2
A. 2-[5-Hydroxy-3-(phenoxymethyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 58% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and methyl 3-oxo-4-phenoxybutanoate according to the procedure for the preparation of Example 3, part A. [M+H] Calc'd for C16H12N4O2, 293. Found, 293.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | methyl 3-oxo-4-phenoxybutanoate | O=C(CC(=O)OC)COC1=CC=CC=C1 | C11H12O4
product | 2-[5-Hydroxy-3-(phenoxymethyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 58% yield | OC1=CC(=NN1C1=NC=CC(=C1)C#N)COC1=CC=CC=C1 | C16H12N4O2
